US05128356
2-Butyl-1-[[2'-(N-pivaloyloxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
A mixture of 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid (0.71 g), K2CO3 (0.21 g) and iodomethylpivalate (0.36 g) in DMF (2 ml) was stirred at room temperature for 17 hours. The reaction mixture was digested with water and made acidic (pH 3-4) with 1N-HCl. The mixture was extracted with ethyl acetate and the organic layer was washed with H2O, dried and evaporated to dryness to give a residue. The residue was purified by column chromatography on silica gel to afford colorless powder (0.2 g, 23%), m.p. 188°-191° C.(d).

reactant | 2-butyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 0.71 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C26H24N6O2
reactant | K2CO3 | 0.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethylpivalate | 0.36 g | ICCC(C(=O)[O-])(C)C
reactant | HCl | Cl | ClH
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Butyl-1-[[2'-(N-pivaloyloxymethyltetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 0.2 g, 23% | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1COC(C(C)(C)C)=O)C(=CC=C2)C(=O)O | C32H34N6O4
